US04298739
1.6 Grams of 6-hydroxycarbostyril, 0.7 g of sodium ethylate, 1.6 g of sodium iodide and 3.3 g of N-ethyl-N-(4-chloro-3-methylbutyryl)-2-methylcyclohexylamine are added to 30 ml of ethanol and the mixture is refluxed under agitation for 5 hours. After the reaction, the reaction solution is poured into 200 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The resultant crude crystals are recrystallized from benzene-ligroin to obtain 1.4 g of 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril with melting point of 146°-149° C.

reactant | 6-hydroxycarbostyril | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | sodium ethylate | 0.7 g | CC[O-].[Na+]
reactant | sodium iodide | 1.6 g | [I-].[Na+]
reactant | N-ethyl-N-(4-chloro-3-methylbutyryl)-2-methylcyclohexylamine | 3.3 g | C(C)N(C(CC(CCl)C)=O)C1C(CCCC1)C | C14H26ClNO
reactant | NaCl | 200 ml | [Na+].[Cl-]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril | 1.4 g | CN(C(=O)CC(COC=1C=C2C=CC(NC2=CC1)=O)C)C1C(CCCC1)C | C22H30N2O3
